US05064959
Preparation of methyl 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)cinnamate (method a1)
Methyl 4-cyanocinnamate (46 pw) is suspended in the absence of moisture and at 24 to 28° C. in a mixture of trichloroacetonitrile (208.2 pw) and aluminum bromide (7.68 pw). The mixture is stirred, and hydrogen chloride is introduced at constant temperature. Temporarily, an almost clear solution is formed, but soon thereafter the mixture becomes syrup-like. Introduction of hydrogen chloride gas is stopped after 4 hours, stirring is discontinued and the mixture is maintained at 28° C. for 12 hours. The resulting solid material is dissolved in 500 pw of dichloromethane and washed twice with 250 pw of water. The organic phase is dried over calcium chloride, and the solvent is evaporated. The residue is recrystallized from a 1:1 mixture of methanol and 2-methoxyethanol.

reactant | Methyl 4-cyanocinnamate | C(#N)C1=CC=C(C=CC(=O)OC)C=C1 | C11H9NO2
reactant | hydrogen chloride | Cl | ClH
reactant | trichloroacetonitrile | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | aluminum bromide | [Br-].[Al+3].[Br-].[Br-]
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl 4-(4,6-bis(trichloromethyl)-s-triazin-2-yl)cinnamate | ClC(C1=NC(=NC(=N1)C(Cl)(Cl)Cl)C1=CC=C(C=CC(=O)OC)C=C1)(Cl)Cl | C15H9Cl6N3O2
